US04089969
A solution of 300 mg. of 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of isoamyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuo and the residue purified by chromatography on alumina, to yield isoamyl 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate.

reactant | 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCC2C(=O)O)C | C16H15NO3
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | isoamyl 5-p-toluoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C1(=CC=C(C=C1)C(=O)C1=CC=C2N1CCC2C(=O)OCCC(C)C)C | C21H25NO3
